US06197975B1
Step 6.2C (±)-3-(4-aminophenyl)-1-ethyl-3-methylpyrrolidin-2-one
A mixture of 770 mg (3.1 mmol) (±)-1-ethyl-3-methyl-3-(4-nitrophenyl)pyrrolidin-2-one, 50 mg of 10% palladium on carbon, and 50 mL of absolute ethanol was shaken with hydrogen (initial hydrogen pressure 46 psig) in a pressure vessel for 2.5 hours. The catalyst was removed by filtration through Celite under nitrogen, and the filter cake was washed with additional ethanol. Concentration of the filtrate in vacuo gave 684 mg (quantitative) of an extremely pale pink oil; essentially homogeneous by TLC in 1:1 hexane-EtOAc. 500 MHz 1H NMR (CDCl3) was consistent with the assigned structure. Mass spectrum (PB-NH3/CI): m/e=219.1 (M+H).

reactant | (±)-1-ethyl-3-methyl-3-(4-nitrophenyl)pyrrolidin-2-one | 3.1 mmol, 770 mg | C(C)N1C(C(CC1)(C1=CC=C(C=C1)[N+](=O)[O-])C)=O | C13H16N2O3
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | (±)-3-(4-aminophenyl)-1-ethyl-3-methylpyrrolidin-2-one | NC1=CC=C(C=C1)C1(C(N(CC1)CC)=O)C | C13H18N2O
